* C:\Users\glenn\eSim-Workspace\glenn_ASIC_digitalpart\glenn_ASIC.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 3/14/2022 12:17:53 AM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
v1  Net-_U8-Pad3_ GND DC		
v2  clk GND pulse		
U9  Net-_U1-Pad52_ data dac_bridge_1		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ Net-_U1-Pad15_ Net-_U1-Pad16_ Net-_U1-Pad17_ Net-_U1-Pad18_ Net-_U1-Pad19_ Net-_U1-Pad20_ Net-_U1-Pad21_ Net-_U1-Pad22_ Net-_U1-Pad23_ Net-_U1-Pad24_ Net-_U1-Pad25_ Net-_U1-Pad26_ Net-_U1-Pad27_ Net-_U1-Pad28_ Net-_U1-Pad29_ Net-_U1-Pad30_ Net-_U1-Pad31_ Net-_U1-Pad32_ Net-_U1-Pad33_ Net-_U1-Pad34_ Net-_U1-Pad35_ Net-_U1-Pad36_ Net-_U1-Pad37_ Net-_U1-Pad38_ Net-_U1-Pad39_ Net-_U1-Pad40_ Net-_U1-Pad41_ Net-_U1-Pad42_ Net-_U1-Pad43_ ? ? ? ? ? ? ? ? Net-_U1-Pad52_ glenn_asic		
U2  clk plot_v1		
U10  data plot_v1		
U11  TX plot_v1		
v3  TX Net-_M1-Pad3_ sine		
M1  Net-_M1-Pad1_ data Net-_M1-Pad3_ Net-_M1-Pad4_ mosfet_n		
M2  Net-_M1-Pad1_ data TX Net-_M2-Pad4_ mosfet_p		
v4  Net-_M2-Pad4_ GND DC		
v5  GND Net-_M1-Pad4_ DC		
U8  clk clk Net-_U8-Pad3_ Net-_U1-Pad41_ Net-_U1-Pad42_ Net-_U1-Pad43_ adc_bridge_3		
U5  Sensor clk Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ Net-_U1-Pad15_ Net-_U1-Pad16_ glenn_adc		
U12  Sensor clk Net-_U1-Pad33_ Net-_U1-Pad34_ Net-_U1-Pad35_ Net-_U1-Pad36_ Net-_U1-Pad37_ Net-_U1-Pad38_ Net-_U1-Pad39_ Net-_U1-Pad40_ glenn_adc		
U7  Sensor clk Net-_U1-Pad25_ Net-_U1-Pad26_ Net-_U1-Pad27_ Net-_U1-Pad28_ Net-_U1-Pad29_ Net-_U1-Pad30_ Net-_U1-Pad31_ Net-_U1-Pad32_ glenn_adc		
U6  Sensor clk Net-_U1-Pad17_ Net-_U1-Pad18_ Net-_U1-Pad19_ Net-_U1-Pad20_ Net-_U1-Pad21_ Net-_U1-Pad22_ Net-_U1-Pad23_ Net-_U1-Pad24_ glenn_adc		
U4  Sensor clk Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ glenn_adc		
v6  Sensor GND sine		
U3  Sensor plot_v1		

.end
