* c:\users\glenn\esim-workspace\glenn_asic_digitalpart\glenn_asic_digitalpart.cir

v1 net-_u3-pad6_ gnd  dc 5
v2  clk gnd pulse(0 5 0.1m 0.1m 0.1m 0.5 1)
* u7  net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ adc_bridge_8
* u6  gnd gnd gnd gnd gnd net-_u3-pad6_ gnd net-_u3-pad6_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ adc_bridge_8
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ net-_u1-pad41_ net-_u1-pad42_ net-_u1-pad43_ ? ? ? ? ? ? ? ? net-_u1-pad52_ glenn_asic
* u5  gnd gnd gnd gnd gnd net-_u3-pad6_ gnd net-_u3-pad6_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ adc_bridge_8
* u4  gnd gnd gnd gnd gnd net-_u3-pad6_ gnd net-_u3-pad6_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
* u3  gnd gnd gnd gnd gnd net-_u3-pad6_ gnd net-_u3-pad6_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ adc_bridge_8
* u8  clk clk net-_u3-pad6_ net-_u1-pad41_ net-_u1-pad42_ net-_u1-pad43_ adc_bridge_3
* u9  net-_u1-pad52_ tx dac_bridge_1
* u2  clk plot_v1
r1  tx gnd 1k
* u10  tx plot_v1
a1 [net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ net-_u3-pad6_ ] [net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ ] u7
a2 [gnd gnd gnd gnd gnd net-_u3-pad6_ gnd net-_u3-pad6_ ] [net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ ] u6
a3 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] [net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ ] [net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ ] [net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ ] [net-_u1-pad41_ ] [net-_u1-pad42_ ] [net-_u1-pad43_ ] [? ? ? ? ? ? ? ? ] [net-_u1-pad52_ ] u1
a4 [gnd gnd gnd gnd gnd net-_u3-pad6_ gnd net-_u3-pad6_ ] [net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ ] u5
a5 [gnd gnd gnd gnd gnd net-_u3-pad6_ gnd net-_u3-pad6_ ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u4
a6 [gnd gnd gnd gnd gnd net-_u3-pad6_ gnd net-_u3-pad6_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] u3
a7 [clk clk net-_u3-pad6_ ] [net-_u1-pad41_ net-_u1-pad42_ net-_u1-pad43_ ] u8
a8 [net-_u1-pad52_ ] [tx ] u9
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             glenn_asic, NgSpice Name: glenn_asic
.model u1 glenn_asic(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran .1e-00 600e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk) v(tx)+6
.endc
.end
